*
.SUBCKT 1ps70sb10_PH 1 3   
* The Resistor R1 does not reflect   
* a physical device.  Instead it  
* improves modeling in the reverse   
* mode of operation.  
*
R1 1 3 3.6E+07
D1 1 3 1ps70sb10    
*
.MODEL 1ps70sb10 D(   
+    IS = 2.117E-07   
+    N = 1.016   
+    BV = 36   
+    IBV = 1.196E-06   
+    RS = 2.637   
+    CJO = 1.114E-11   
+    VJ = 0.2013   
+    M = 0.3868   
+    FC = 0   
+    TT = 0   
+    EG = 0.69   
+    XTI = 2)   
*
.ENDS  
  
*
.SUBCKT 1ps70sb14_PH 1 2 3  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse   
* mode of operation.  
*
R1 1 3 3.6E+07
D1 1 3 1ps70sb14
R2 3 2 3.6E+07
D2 3 2 1ps70sb14   
*
.MODEL 1ps70sb14 D(   
+    IS = 2.117E-07   
+    N = 1.016   
+    BV = 36   
+    IBV = 1.196E-06   
+    RS = 2.637   
+    CJO = 1.114E-11   
+    VJ = 0.2013   
+    M = 0.3868   
+    FC = 0   
+    TT = 0   
+    EG = 0.69   
+    XTI = 2)   
*
.ENDS  
  
*
.SUBCKT 1ps70sb15_PH 1 2 3  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse   
* mode of operation.  
*
R1 1 3 3.6E+07
D1 1 3 1ps70sb15
R2 2 3 3.6E+07
D2 2 3 1ps70sb15   
*
.MODEL 1ps70sb15 D(   
+    IS = 2.117E-07   
+    N = 1.016   
+    BV = 36   
+    IBV = 1.196E-06   
+    RS = 2.637   
+    CJO = 1.114E-11   
+    VJ = 0.2013   
+    M = 0.3868   
+    FC = 0   
+    TT = 0   
+    EG = 0.69   
+    XTI = 2)   
*
.ENDS  
  
*
.SUBCKT 1ps70sb16_PH 1 2 3  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse   
* mode of operation.  
*
R1 3 1 3.6E+07
D1 3 1 1ps70sb16
R2 3 2 3.6E+07
D2 3 2 1ps70sb16   
*
.MODEL 1ps70sb16 D(   
+    IS = 2.117E-07   
+    N = 1.016   
+    BV = 36   
+    IBV = 1.196E-06   
+    RS = 2.637   
+    CJO = 1.114E-11   
+    VJ = 0.2013   
+    M = 0.3868   
+    FC = 0   
+    TT = 0   
+    EG = 0.69   
+    XTI = 2)   
*
.ENDS  
  
*
.SUBCKT 1PS70SB40_PH 1 3  
* The Resistor R1 does not reflect   
* a physical device.  Instead it   
* improves modeling in the reverse  
* mode of operation.
R1 1 3 6.659E+08
D1 1 3 D1PS70SB40  
*
.MODEL D1PS70SB40 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS70SB44_PH 1 2 3  
* The Resistors do not reflect  
* physical devices.  Instead they   
* improve modeling in the reverse  
* mode of operation.
R1 1 3 6.659E+08
D1 1 3 D1PS70SB44
R2 3 2 6.659E+08
D2 3 2 D1PS70SB44  
*
.MODEL D1PS70SB44 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS70SB45_PH 1 2 3  
* The Resistors do not reflect  
* physical devices.  Instead they   
* improve modeling in the reverse  
* mode of operation.
R1 1 3 6.659E+08
D1 1 3 D1PS70SB45
R2 2 3 6.659E+08
D2 2 3 D1PS70SB45  
*
.MODEL D1PS70SB45 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS70SB46_PH 1 2 3  
* The Resistors do not reflect  
* physical devices.  Instead they   
* improve modeling in the reverse  
* mode of operation.
R1 3 1 6.659E+08
D1 3 1 D1PS70SB46
R2 3 2 6.659E+08
D2 3 2 D1PS70SB46  
*
.MODEL D1PS70SB46 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS74SB23_PH 1 2   
* The Resistor R1 does not reflect   
* a physical device.  Instead it  
* improves modeling in the reverse  
* mode of operation.
R1 1 2 2.56E+05
D1 1 2 D1PS74SB23
.MODEL D1PS74SB23 D   
+ IS = 6.984E-06   
+ N = 1.023   
+ BV = 30   
+ IBV = 0.0002402   
+ RS = 0.1574   
+ CJO = 3.075E-10   
+ VJ = 0.6615   
+ M = 0.6098   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2
.ENDS  
*  
  
*
.SUBCKT 1PS74SB43_PH 1 2  
*  
* The resistor R1 does not reflect  
* a physical device. Instead it   
* improves modeling in the reverse  
* mode of operation.  
*
R1 1 2 1.4E+06
D1 1 2 1PS74SB43  
*
.MODEL 1PS74SB43 D  
+ IS = 4.9E-06  
+ N = 1.001  
+ BV = 40  
+ IBV = 6E-05  
+ RS = 0.108  
+ CJO = 3.791E-10  
+ VJ = 0.103  
+ M = 0.4704  
+ FC = 0.5  
+ TT = 0  
+ EG = 0.69  
+ XTI = 2
.ENDS  
*  
  
*
.SUBCKT 1PS75SB45_PH 1 2 3  
*  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse  
* mode of operation.  
*
R1 1 3 8E+08
D1 1 3 D1PS75SB45
R2 2 3 8E+08
D2 2 3 D1PS75SB45
.MODEL D1PS75SB45 D(   
+ IS = 9.114E-09   
+ N = 1.006   
+ BV = 45   
+ IBV = 7.8E-05   
+ RS = 4.563   
+ CJO = 3.895E-12   
+ VJ = 0.3192   
+ M = 0.4008   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS76SB10_PH 1 2   
* The Resistor R1 does not reflect   
* a physical device.  Instead it  
* improves modeling in the reverse  
* mode of operation.
R1 1 2 2.9E+07
D1 1 2 SBD
.MODEL SBD D(   
+ IS = 2.548E-07   
+ N = 1.02   
+ BV = 33   
+ IBV = 1.251E-06   
+ RS = 2.582   
+ CJO = 9.92E-12   
+ VJ = 0.317   
+ M = 0.4411   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS76SB17_PH 1 2   
* The Resistor R1 does not reflect  
* a physical device.  Instead it  
* improves modeling in the reverse  
* mode of operation.
R1 1 2 6E+07
D1 1 2 SBD
.MODEL SBD D(   
+ IS = 1.419E-09   
+ N = 1.022   
+ BV = 6   
+ IBV = 2.45E-06   
+ RS = 5.112   
+ CJO = 7.867E-13   
+ VJ = 0.1043   
+ M = 0.1439   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS
.SUBCKT 1PS76SB21_PH 1 2   
* The Resistor R1 does not reflect  
* a physical device.  Instead it   
* improves modeling in the   
* reverse mode of operation.
R1 1 2 5.9E+06
D1 1 2 D1PS76SB21
.MODEL D1PS76SB21 D (  
+ IS = 1.009E-06   
+ N = 1.017   
+ BV = 44   
+ IBV = 0.001611   
+ RS = 0.6578   
+ CJO = 3.76E-11   
+ VJ = 0.274   
+ M = 0.4381   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2 )
.ENDS  
*  
  
*
.SUBCKT 1PS76SB40_PH 1 2   
* The Resistor R1 does not   
* reflect a physical device.   
* Instead it improves modeling  
* in the reverse mode of   
* operation.
R1 1 2 6.659E+08
D1 1 2 D1PS76SB40  
*
.MODEL D1PS76SB40 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS76SB70_PH 1 2   
* The Resistor R1 does not reflect a  
* physical device.  Instead it improves  
* modeling in the reverse mode of  
* operation.
R1 1 2 1.409E+09
D1 1 2 D1PS76SB70
.MODEL D1PS76SB70 D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS79SB10_PH 1 2   
* The Resistor R1 does not reflect a  
* physical device.  Instead it improves  
* modeling in the reverse mode of  
* operation.
R1 1 2 3.5E+07
D1 1 2 D1PS79SB10   
*
.MODEL D1PS79SB10 D(   
+ IS = 2.36E-07   
+ N = 1.009   
+ BV = 33   
+ IBV = 0.001   
+ RS = 2.633   
+ CJO = 9.53E-12   
+ VJ = 0.2034   
+ M = 0.3811   
+ FC = 0.6435   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT 1PS79SB40_PH 1 2  
*  
* The resistor does not reflect a  
* physical devices.  Instead it improves  
* modeling in the reverse mode of  
* operation.  
*
R1 1 2 8E+08
D1 1 2 D1PS79SB40
.MODEL D1PS79SB40 D  
+ IS = 8.361E-09  
+ N = 1.003  
+ BV = 44  
+ IBV = 8E-07  
+ RS = 5.031  
+ CJO = 3.8E-12  
+ VJ = 0.1119  
+ M = 0.2915  
+ FC = 1  
+ TT = 0  
+ EG = 0.69  
+ XTI = 2
.ENDS  
*  
  
*  
* D1PS88SB48  
* The resistors do not reflect   
* physical devices.  Instead   
* they improve modeling in the  
* reverse mode of operation.  
*
.SUBCKT 1PS88SB48_PH 1 2 3 4 5 6
R1 1 6 8.961E+08
D1 1 6 D1PS88SB48
R2 2 6 8.961E+08
D2 2 6 D1PS88SB48
R3 4 3 8.961E+08
D3 4 3 D1PS88SB48
R4 5 3 8.961E+08
D4 5 3 D1PS88SB48
.MODEL D1PS88SB48 D   
+ IS = 9.649E-09   
+ N = 1.013   
+ BV = 1000   
+ IBV = 0.001   
+ RS = 4.999   
+ CJO = 3.928E-12   
+ VJ = 0.2057   
+ M = 0.3426   
+ FC = 4.441E-16   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2
.ENDS  
  
*
.SUBCKT BAS40-04_PH 1 2 3   
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 6.659E+08
D1 1 3 BAS40-04
R2 3 2 6.659E+08
D2 3 2 BAS40-04   
*
.MODEL BAS40-04 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS40-05_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 6.659E+08
D1 1 3 BAS40-05
R2 2 3 6.659E+08
D2 2 3 BAS40-05   
*
.MODEL BAS40-05 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS40-06_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 3 1 6.659E+08
D1 3 1 BAS40-06
R2 3 2 6.659E+08
D2 3 2 BAS40-06  
*
.MODEL BAS40-06 D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS40-04W_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 6.659E+08
D1 1 3 BAS40-04W
R2 3 2 6.659E+08
D2 3 2 BAS40-04W   
*
.MODEL BAS40-04W D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS40-05W_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 6.659E+08
D1 1 3 BAS40-05W
R2 2 3 6.659E+08
D2 2 3 BAS40-05W   
*
.MODEL BAS40-05W D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS40-06W_PH 1 2 3  
* The resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 3 1 6.659E+08
D1 3 1 BAS40-06W
R2 3 2 6.659E+08
D2 3 2 BAS40-06W   
*
.MODEL BAS40-06W D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS40W_PH 1 3   
* The Resistor R1 does not   
* reflect a physical device.   
* Instead it improves modeling  
* in the reverse mode of   
* operation.
R1 1 3 6.659E+08
D1 1 3 BAS40W   
*
.MODEL BAS40W D(   
+ IS = 1.419E-08   
+ N = 1.025   
+ BV = 44   
+ IBV = 1.255E-07   
+ RS = 4.942   
+ CJO = 4.046E-12   
+ VJ = 0.323   
+ M = 0.4154   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70-04_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 1.409E+09
D1 1 3 BAS70
R2 3 2 1.409E+09
D2 3 2 BAS70
.MODEL BAS70 D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70-05_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 1.409E+09
D1 1 3 BAS70
R2 2 3 1.409E+09
D2 2 3 BAS70
.MODEL BAS70 D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70-06_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 3 1 1.409E+09
D1 3 1 BAS70
R2 3 2 1.409E+09
D2 3 2 BAS70
.MODEL BAS70 D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70-07_PH 1 2 3 4  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 4 1 1.409E+09
D1 4 1 BAS70
R2 3 2 1.409E+09
D2 3 2 BAS70
.MODEL BAS70 D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70-04W_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 1.409E+09
D1 1 3 BAS70W
R2 3 2 1.409E+09
D2 3 2 BAS70W  
*
.MODEL BAS70W D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70-05W_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 1 3 1.409E+09
D1 1 3 BAS70W
R2 2 3 1.409E+09
D2 2 3 BAS70W
.MODEL BAS70W D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70-06W_PH 1 2 3  
* The Resistors do not   
* reflect physical devices.   
* Instead they improve modeling  
* in the reverse mode of   
* operation.
R1 3 1 1.409E+09
D1 3 1 BAS70W
R2 3 2 1.409E+09
D2 3 2 BAS70W
.MODEL BAS70W D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAS70W_PH 1 3   
* The Resistor R1 does not reflect   
* a physical device.  Instead it   
* improves modeling in the reverse  
* mode of operation.
R1 1 3 1.409E+09
D1 1 3 BAS70W
.MODEL BAS70W D(   
+ IS = 3.22E-09   
+ N = 1.018   
+ BV = 77  
+ IBV = 1.67E-07   
+ RS = 20.89   
+ CJO = 1.655E-12   
+ VJ = 0.349  
+ M = 0.3583  
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAT120A_PH 1 3 4  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse  
* mode of operation.
R1 4 1 2.56E+05
D1 4 1 BAT120A
R2 4 3 2.56E+05
D2 4 3 BAT120A
.MODEL BAT120A D (   
+ IS = 6.984E-06   
+ N = 1.023   
+ BV = 30   
+ IBV = 0.0002402   
+ RS = 0.1574   
+ CJO = 3.075E-10   
+ VJ = 0.6615   
+ M = 0.6098   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2 )
.ENDS  
*  
  
*
.SUBCKT BAT120C_PH 1 3 4  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse  
* mode of operation.
R1 1 4 2.56E+05
D1 1 4 BAT120C
R2 3 4 2.56E+05
D2 3 4 BAT120C
.MODEL BAT120C D ( 
+ IS = 6.984E-06   
+ N = 1.023   
+ BV = 30   
+ IBV = 0.0002402   
+ RS = 0.1574   
+ CJO = 3.075E-10   
+ VJ = 0.6615   
+ M = 0.6098   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2 )
.ENDS  
*  
  
*
.SUBCKT BAT120S_PH 1 3 4  
* The resistor do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse  
* mode of operation.
R1 1 4 2.56E+05
D1 1 4 BAT120S
R2 4 3 2.56E+05
D2 4 3 BAT120S
.MODEL BAT120S D ( 
+ IS = 6.984E-06   
+ N = 1.023   
+ BV = 30   
+ IBV = 0.0002402   
+ RS = 0.1574   
+ CJO = 3.075E-10   
+ VJ = 0.6615   
+ M = 0.6098   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2 )
.ENDS  
*  
  
*
.SUBCKT BAT54A_PH 1 2 3  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse   
* mode of operation.  
*
R1 3 1 3.6E+07
D1 3 1 BAT54A
R2 3 2 3.6E+07
D2 3 2 BAT54A   
*
.MODEL BAT54A D(   
+    IS = 2.117E-07   
+    N = 1.016   
+    BV = 36   
+    IBV = 1.196E-06   
+    RS = 2.637   
+    CJO = 1.114E-11   
+    VJ = 0.2013   
+    M = 0.3868   
+    FC = 0   
+    TT = 0   
+    EG = 0.69   
+    XTI = 2)   
*
.ENDS  
  
*
.SUBCKT BAT54C_PH 1 2 3  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse   
* mode of operation.  
*
R1 1 3 3.6E+07
D1 1 3 BAT54C
R2 2 3 3.6E+07
D2 2 3 BAT54C  
*
.MODEL BAT54C D(   
+    IS = 2.117E-07   
+    N = 1.016   
+    BV = 36   
+    IBV = 1.196E-06   
+    RS = 2.637   
+    CJO = 1.114E-11   
+    VJ = 0.2013   
+    M = 0.3868   
+    FC = 0   
+    TT = 0   
+    EG = 0.69   
+    XTI = 2)   
*
.ENDS  
  
*
.SUBCKT BAT54S_PH 1 2 3  
* The resistors do not reflect   
* physical devices.  Instead they  
* improve modeling in the reverse   
* mode of operation.  
*
R1 1 3 3.6E+07
D1 1 3 BAT54S
R2 3 2 3.6E+07
D2 3 2 BAT54S   
*
.MODEL BAT54S D(   
+    IS = 2.117E-07   
+    N = 1.016   
+    BV = 36   
+    IBV = 1.196E-06   
+    RS = 2.637   
+    CJO = 1.114E-11   
+    VJ = 0.2013   
+    M = 0.3868   
+    FC = 0   
+    TT = 0   
+    EG = 0.69   
+    XTI = 2)   
*
.ENDS  
  
*
.SUBCKT BAT720_PH 1 2
R1 1 2 2.8E+06
D1 1 2 DBAT720   
*  
* The Resistor R1 does not reflect  
* a physical device.  Instead it  
* improves modeling in the reverse  
* mode of operation   
*
.MODEL DBAT720 D   
+ IS = 1.281E-06   
+ N = 1.009   
+ BV = 44   
+ IBV = 2.21E-05   
+ RS = 0.3093   
+ CJO = 8.133E-11   
+ VJ = 0.4519   
+ M = 0.5304   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2
.ENDS  
*  
  
*
.SUBCKT BAT721_PH 1 3  
* The resistor R1 does not reflect  
* a physical device. Instead it   
* improves modeling in the reverse  
* mode of operation.
R1 1 3 5.9E+06
D1 1 3 BAT721  
*
.MODEL BAT721 D(   
+ IS = 1.009E-06   
+ N = 1.017   
+ BV = 44   
+ IBV = 0.001611   
+ RS = 0.6578   
+ CJO = 3.76E-11   
+ VJ = 0.274   
+ M = 0.4381   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS   
*  
  
*
.SUBCKT BAT721A_PH 1 2 3  
* The resistors do not reflect  
* physical devices. Instead they   
* improve modeling in the reverse  
* mode of operation.
R1 3 1 5.9E+06
D1 3 1 BAT721A
R2 3 2 5.9E+06
D2 3 2 BAT721A  
*
.MODEL BAT721A D(   
+ IS = 1.009E-06   
+ N = 1.017   
+ BV = 44   
+ IBV = 0.001611   
+ RS = 0.6578   
+ CJO = 3.76E-11   
+ VJ = 0.274   
+ M = 0.4381   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAT721C_PH 1 2 3  
* The resistors do not reflect  
* physical devices. Instead they   
* improve modeling in the reverse  
* mode of operation.
R1 1 3 5.9E+06
D1 1 3 BAT721C
R2 2 3 5.9E+06
D2 2 3 BAT721C  
*
.MODEL BAT721C D(   
+ IS = 1.009E-06   
+ N = 1.017   
+ BV = 44   
+ IBV = 0.001611   
+ RS = 0.6578   
+ CJO = 3.76E-11   
+ VJ = 0.274   
+ M = 0.4381   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS   
*  
  
*
.SUBCKT BAT721S_PH 1 2 3  
* The resistors do not reflect  
* physical devices. Instead they   
* improve modeling in the reverse  
* mode of operation.
R1 1 3 5.9E+06
D1 1 3 BAT721S
R2 3 2 5.9E+06
D2 3 2 BAT721S  
*
.MODEL BAT721S D(   
+ IS = 1.009E-06   
+ N = 1.017   
+ BV = 44   
+ IBV = 0.001611   
+ RS = 0.6578   
+ CJO = 3.76E-11   
+ VJ = 0.274   
+ M = 0.4381   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT BAT74_PH 1 2 3 4  
* The resistors do not reflect  
* physical devices.  Instead they  
* improve modeling in the reverse  
* mode of operation.
R1 4 1 2.9E+07
D1 4 1 BAT74
R2 3 2 2.9E+07
D2 3 2 BAT74  
*
.MODEL BAT74 D(   
+ IS = 2.548E-07   
+ N = 1.02   
+ BV = 33   
+ IBV = 1.251E-06   
+ RS = 2.582   
+ CJO = 9.92E-12   
+ VJ = 0.317   
+ M = 0.4411   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*  
  
*
.SUBCKT PBYR2150CT_PH 1 2 3 4  
* The resistors do not reflect  
* physical devices.  Instead they   
* improve modeling in the   
* reverse mode of operation.
R1 1 2 1.2E+07
D1 1 2 PBYR2150CT
R2 3 4 1.2E+07
D2 3 4 PBYR2150CT
.MODEL PBYR2150CT D(   
+ IS = 1.145E-06   
+ N = 1.048   
+ BV = 165   
+ IBV = 0.0002   
+ RS = 0.437   
+ CJO = 2.44E-10   
+ VJ = 0.185   
+ M = 0.463   
+ FC = 0.5   
+ TT = 0   
+ EG = 0.69   
+ XTI = 2)
.ENDS  
*
